US04940707
A mixture of 6 g of p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]phenol, 4.8 g of 2-chloroethyl methyl sulphide and 10.5 g finely powdered potassium carbonate in 100 ml of dimethylformamide is heated to 100° for 20 hours. The cooled reaction mixture is diluted with water and extracted several times with ethyl acetate. The crystalline residue obtained after drying and evaporating the organic phase is recrystallized from hexane and gives 5.5 g of methyl 2-[p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]phenoxy]ethyl sulphide in colourless crystals, melting point 94°-96°.

reactant | p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]phenol | 6 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C1=CC=C(C=C1)O)/C)C | C23H28O
reactant | 2-chloroethyl methyl sulphide | 4.8 g | CSCCCl | C3H7ClS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 2-[p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]phenoxy]ethyl sulphide | 5.5 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C1=CC=C(OCCSC)C=C1)/C)C | C26H34OS
